US07459263B2
Finally, 2-methoxythioxanthen-9-one (S-17) was prepared. To a mixture of 2-(2-methoxyphenylthio)benzoic acid (11.0 g, 42 mmol) and 43.1 g (423 mmol) of acetic anhydride was added dropwise 4.14 g (42 mmol) of concentrated sulfuric acid. The mixture was heated at 80° C. for 4 h, cooled to ambient, and poured very slowly onto 500 g of ice. The precipitate was extracted with dichloromethane, and the extract was washed with 10% aqueous NaHCO3 and then with brine. The solution was dried (MgSO4), passed through a short column of silica gel, and concentrated to deposit an orange solid. The product was purified by successive recrystallizations from isopropanol and from toluene/heptane. 1H NMR (CDCl3): δ 3.95 (s, 3H), 7.27 (dd, 1H), 7.5 (m, 2H), 7.6 (m, 2H), 8.09 (d, 1H), 8.64 (d 1H).

reactant | 2-(2-methoxyphenylthio)benzoic acid | 42 mmol, 11.0 g | COC1=C(C=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
reactant | acetic anhydride | 423 mmol, 43.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 42 mmol, 4.14 g | S(O)(O)(=O)=O | H2O4S
product | 2-methoxythioxanthen-9-one | COC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C14H10O2S
